US07067510B2
Add LAH solution (0.3 mL, 1M/THF) to a solution of [6-hydroxy-2-(2-hydroxy-benzyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (150 mg, 0.31 mmol) in THF (3 mL) at r.t. Stir for 30 min and quench with aq. NaHCO3. Dilute with CH2Cl2, wash with water and brine, dry over MgSO4, filter and concentrate. Purify the crude product by flash chromatography (0–5% (2M NH3 in MeOH)/CH2Cl2) to afford 6-(2-hydroxy-benzyl)-5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-naphthalen-2-ol (123 mg, 82%).

reactant | LAH | 1M, 0.3 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | [6-hydroxy-2-(2-hydroxy-benzyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 0.31 mmol, 150 mg | OC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)CC1=C(C=CC=C1)O | C31H31NO4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 6-(2-hydroxy-benzyl)-5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-naphthalen-2-ol | 123 mg, 82% | OC1=C(CC=2C(=C3C=CC(=CC3=CC2)O)C(C2=CC=C(C=C2)OCCN2CCCCC2)O)C=CC=C1 | C31H33NO4
